US07241810B2
Preparation 53: 3,5-Dichloro-N-ethyl-2-hydroxybenzamide
The title compound was prepared from 3,5-dichloro-2-hydroxybenzoic acid and ethylamine, using a similar method to that of preparation 52, to afford the title compound as a pale yellow solid. 1HNMR (400 MHz, CDCl3) δ: 1.28 (3H, t), 3.47–3.54 (2H, m), 6.29–6.36 (1H, bs), 7.27 (1H, d), 7.48 (1H, d); LRMS ESI m/z 232 [M−H]−

reactant | 3,5-dichloro-2-hydroxybenzoic acid | ClC=1C(=C(C(=O)O)C=C(C1)Cl)O | C7H4Cl2O3
reactant | ethylamine | C(C)N | C2H7N
product | 3,5-Dichloro-N-ethyl-2-hydroxybenzamide | ClC=1C(=C(C(=O)NCC)C=C(C1)Cl)O | C9H9Cl2NO2
